US05254558
To a solution of 2-(5-amino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide (1.1 g) and triphosgene (0.93 g) in dichloromethane at 0° C. was added triethylamine (2.0 mL) and the resulting solution was allowed to stir for 0.5 h. To this solution was added 4-pyridylcarbinol and the resulting solution allowed to stir overnight. The solution was poured into saturated aqueous sodium bicarbonate solution and the product was extracted into dichloromethane. The organic solution was washed (saturated aqueous sodium bicarbonate, water), dried, and evaporated. The resulting oil was purified by chromatography, with methanol:dichloromethane (5:95) as the eluent, to provide 2-[6-oxo-2-phenyl-5-(4-pyridylmethoxycarbonylamino)-1,6-dihydro-1-pyrimidinyl]-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide as a white solid (0.9 g); TLC: Rf =0.4, methanol:dichloromethane (5:95).

reactant | 2-(5-amino-6-oxo-2-phenyl-1,6-dihydro-1-pyrimidinyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide | 1.1 g | NC1=CN=C(N(C1=O)CC(=O)NC(C(C(F)(F)F)O[Si](C)(C)C(C)(C)C)C(C)C)C1=CC=CC=C1 | C24H35F3N4O3Si
reactant | triphosgene | 0.93 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-pyridylcarbinol | N1=CC=C(C=C1)CO | C6H7NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | triethylamine | 2.0 mL | C(C)N(CC)CC | C6H15N
product | 2-[6-oxo-2-phenyl-5-(4-pyridylmethoxycarbonylamino)-1,6-dihydro-1-pyrimidinyl]-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide | 0.9 g | O=C1C(=CN=C(N1CC(=O)NC(C(C(F)(F)F)O[Si](C)(C)C(C)(C)C)C(C)C)C1=CC=CC=C1)NC(=O)OCC1=CC=NC=C1 | C31H40F3N5O5Si
